US08278482B2
Benzyl 2-methyl-4-(2,2,2-trifluoroethylamino)butan-2-ylcarbamate
Crude 3-methyl-N1-(2,2,2-trifluoroethyl)butane-1,3-diamine (3.86 g, 21.0 mmol) was dissolved into THF (200 mL) and cooled in an ice bath. A THF (50 mL) solution of CbzOSu (5.22 g, 1 equiv, 21.0 mmol) was added to the reaction dropwise over 5 min. The reaction was left to stand in an ice chest for 16 h. The solvent was removed and the residue was taken up in a mixture of ethyl acetate (150 mL) and water (50 mL). The layers were separated and the organic layer washed with 1 M sodium carbonate (2×50 mL), 1 M HCl (50 mL) and brine (50 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to a pale yellow oil (6.15 g). The crude oil was purified on an ISCO purification system with gradient elution from 0-6% methanol in DCM. The desired fractions were collected and concentrated to give a pale yellow oil (4.57 g, yield: 68.5%). 1H NMR (CDCl3, 400 MHz): δ 1.33 (s, 6H), 1.75-1.83 (t, J=7.2, 2H), 2.74-2.85 (t, J=7.2, 2H) 3.10-3.18 (q, J=9.4, 2H), 5.04 (s, 2H), 7.27-7.38 (m, 5H). LRMS (ESI+) for C15H21F3N2O2 (318.2); Found: 319 (MH+).

reactant | 3-methyl-N1-(2,2,2-trifluoroethyl)butane-1,3-diamine | 21.0 mmol, 3.86 g | CC(CCNCC(F)(F)F)(C)N | C7H15F3N2
reactant | CbzOSu | 21.0 mmol, 5.22 g, 1 equiv | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Benzyl 2-methyl-4-(2,2,2-trifluoroethylamino)butan-2-ylcarbamate | 4.57 g, yield: 68.5% | CC(C)(CCNCC(F)(F)F)NC(OCC1=CC=CC=C1)=O | C15H21F3N2O2
